US05569664
Synthesis 4-[bis(4-trifluoromethoxyphenyl)hydroxymethyl]piperidine as an intermediate
Under a nitrogen atmosphere, 0.8 gram of 10% palladium on charcoal (catalyst) was placed in the reaction vessel. To this were cautiously added 25 mL of nitrogen-purged methanol, a solution of 0.8 gram (0.001 mole) of N-phenylmethyl-4-[bis(4-trifluoromethoxyphenyl)hydroxymethyl]piperidine hydrochloride in 10 mL of methanol, and then 0.9 gram (0.010 mole) of ammonium formate. Upon completion of addition, the reaction mixture was heated at reflux for about 45 minutes. The reaction mixture was then cooled to ambient temperature and diluted with 1:1-methylene chloride/methanol. The mixture was filtered through a pad of diatomaceous earth/fiberglass, and the filtrate was concentrated at about 30° C. under reduced pressure to a residue. The residue was taken up in about 70 mL of ice/water and made basic with aqueous 5% sodium hydroxide solution. The mixture was extracted with methylene chloride, and the extract was washed with an aqueous solution saturated with sodium chloride. The organic layer was then dried with sodium sulfate. The mixture was filtered, and the filtrate was concentrated under reduced pressure to a residue. The residue was stirred with petroleum ether, and 0.5 gram of solid 4-[bis(4-trifluoromethoxyphenyl)hydroxymethyl]piperidine was collected by filtration. The NMR spectrum was consistent with the proposed structure.

reactant | N-phenylmethyl-4-[bis(4-trifluoromethoxyphenyl)hydroxymethyl]piperidine hydrochloride | 0.001 mole, 0.8 gram | Cl.C1(=CC=CC=C1)CN1CCC(CC1)C(O)(C1=CC=C(C=C1)OC(F)(F)F)C1=CC=C(C=C1)OC(F)(F)F
reactant | ammonium formate | 0.010 mole, 0.9 gram | C(=O)[O-].[NH4+]
catalyst | palladium on charcoal | 0.8 gram | [Pd] | Pd
solvent | methanol | 10 mL | CO | CH4O
product | 4-[bis(4-trifluoromethoxyphenyl)hydroxymethyl]piperidine | FC(OC1=CC=C(C=C1)C(C1CCNCC1)(O)C1=CC=C(C=C1)OC(F)(F)F)(F)F | C20H19F6NO3
